US07776869B2
Step 2. Synthesis of 5-chloro-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
A mixture of methyl-5-chloro-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate (0.36 g, 1.8 mmol) and 2.0 mL each MeOH and 1N NaOH was heated in a sealed vial to 80° C. for 1 h. The reaction was cooled to ambient temperature, and the methanol was removed by a stream of nitrogen. Water (2 ml) was added and the solution was adjusted to pH 1 with 6N HCl. A thick white precipitate formed which was partitioned between water and dichloromethane. The organic layer was removed and the aqueous layer was extracted twice with dichloromethane. The combined organic layers were dried with Na2SO4, filtered, and concentrated to give an orange-yellow solid. The material was partitioned between 1N HCl and EtOAc. The organic layer was washed twice with 1N HCl, dried with Na2SO4, filtered, and concentrated to give the desired product as a light orange solid. MS (m/z): 188.0 (M+H)+. Calc'd for C7H6ClNO3: 187.58.

reactant | methyl-5-chloro-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 1.8 mmol, 0.36 g | COC(=O)C=1C(N(C=C(C1)Cl)C)=O | C8H8ClNO3
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH | 2.0 mL | CO | CH4O
product | 5-chloro-1-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | ClC=1C=C(C(N(C1)C)=O)C(=O)O | C7H6ClNO3
